### PR TITLE
Vectors: lemmas about uncons and splitAt

### PR DESCRIPTION
**Pull request by liyishuai**
**Kind:** feature.

- [ ] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in CHANGES.md.

### CODE REVIEW

**Comment by ppedrot** [comment]
Sadly, this PR has seen no answer from any Coq dev for 6 months. The reason is that the standard library is mostly in a frozen state and there is a tacit moratorium on its extension since the inception of the [stdlib2 project](https://github.com/coq/stdlib2).

@liyishuai I don't want to wash your hopes ashore, but I believe the most sensible thing to do with this PR is to close it, and let you cooperate with the upstream development of stdlib2. WDYT?

**Comment by liyishuai** [comment]
I just noticed that stdlib2 has started. Yes it makes more sense to change there.

**Comment by ppedrot** [comment]
Let's close then.

**Comment by herbelin** [comment]
> Sadly, this PR has seen no answer from any Coq dev for 6 months. The reason is that the standard library is mostly in a frozen state and there is a tacit moratorium on its extension since the inception of the stdlib2 project.

I'm unsure discouraging contributing to the standard library on the basis of the virtual existence of a stdlib2 project which has all the appearance of being stalled is positive (even if I'd be happy to see a dynamic on it).

Let's do thing in order. When stdlib2 will really start, it will be easy to move/select things from existing libraries to it. In the meantime, we should not cut the branches we are sitting on.

I'm reopening and assigning so that a discussion can happen.

**Comment by maximedenes** [comment]
> I'm unsure discouraging contributing to the standard library on the basis of the virtual existence of a stdlib2 project which has all the appearance of being stalled is positive (even if I'd be happy to see a dynamic on it).

I tend to agree with @herbelin. As I said before, I think the existence of the stdlib2 project should make us think twice about compatibility-breaking changes in stdlib1. I don't see why additions of lemmas (in stdlib1) would pose any problem.

**Comment by ppedrot** [comment]
I'm not sure that having lingering PRs without any activity is much better for our external contributors, but, well, I am not an external contributor so...

**Comment by Zimmi48** [comment]
See also #9113. FTR, I'm preparing an update of the contributing guide, and this time, it will include a section on contributing to the standard library (stating the reality: it is not frozen, although compatibility-breaking changes may be hard to accept given the stdlib2 project is on the horizon, and reviewers are often less responsive than for other components).

**Review by Zimmi48 — APPROVED** [review]

File: doc/changelog/10-standard-library/09379-splitAt.rst [hunk 1]
```diff
@@ -0,0 +1,4 @@
+- Added ``uncons`` and ``splitAt`` functions over vectors,
```
Comment (Zimmi48) [inline doc/changelog/10-standard-library/09379-splitAt.rst]: Actually, you say here that the function `uncons` is new, but looking at the changes, it seems it existed before and you are just adding lemmas about it...

**Comment by Zimmi48** [comment]
If Konstantinos Kallas is a co-author, it would be nice to add a `Co-authored-by:` in the commit message (see https://help.github.com/en/articles/creating-a-commit-with-multiple-authors).

File: doc/changelog/10-standard-library/09379-splitAt.rst (hunk 1 above)
Comment (liyishuai) [reply doc/changelog/10-standard-library/09379-splitAt.rst]: It was added in #8365 but not mentioned in the changelog accordingly. Is it worth putting it here or somewhere?

Comment (Zimmi48) [reply doc/changelog/10-standard-library/09379-splitAt.rst]: You could either:

1. Add it to the 8.10 changelog (in a separate PR to be backported).
2. Mention it here, but be more accurate, e.g. "Added `splitAt` functions and lemmas about `splitAt` and `uncons` (#9379, follow-up of #8365 which added `uncons` in 8.10+beta1, ...)"

File: theories/Vectors/VectorSpec.v [hunk 2]
```diff
@@ -153,3 +153,49 @@ Proof.
...
+    a1::v1 = a2::v2 -> a1 = a2 /\ v1 = v2.
+Proof with auto.
+  split; intros.
+  - replace a1 with (hd (a1::v1));
+    replace a2 with (hd (a2::v2))...
+    rewrite H...
+  - replace v1 with (tl (a1::v1));
+    replace v2 with (tl (a2::v2))...
+    rewrite H...
+Qed.
```
Comment (herbelin) [inline theories/Vectors/VectorSpec.v]: This lemma already exists with name `cons_inj`.

File: theories/Vectors/VectorSpec.v [hunk 3]
```diff
@@ -153,3 +153,49 @@ Proof.
...
+
+Lemma uncons_cons {A} : forall {n : nat} (a : A) (v : t A n),
+    uncons (a::v) = (a,v).
+Proof. reflexivity. Qed.
+
```
Comment (herbelin) [inline theories/Vectors/VectorSpec.v]: Trivial but meaningful and ok to me.

File: theories/Vectors/VectorSpec.v [hunk 4]
```diff
@@ -153,3 +153,49 @@ Proof.
...
+Lemma append_comm_cons {A} : forall {n m : nat} (v : t A n) (w : t A m) (a : A),
+    a :: (v ++ w) = (a :: v) ++ w.
+Proof. reflexivity. Qed.
```
Comment (herbelin) [inline theories/Vectors/VectorSpec.v]: Trivial but also meaningful and ok to me.

File: theories/Vectors/VectorSpec.v [hunk 5]
```diff
@@ -153,3 +153,49 @@ Proof.
...
+
+Lemma splitAt_append {A} : forall {n m : nat} (v : t A n) (w : t A m),
+    splitAt n (v ++ w) = (v, w).
+Proof with simpl; auto.
+  intros n m v.
+  generalize dependent m.
+  induction v; intros...
+  rewrite IHv...
+Qed.
```
Comment (herbelin) [inline theories/Vectors/VectorSpec.v]: Good and useful as far as I can tell (up to naming of `splitAt`).

File: theories/Vectors/VectorSpec.v [hunk 6]
```diff
@@ -153,3 +153,49 @@ Proof.
...
+  destruct (splitAt n (tl vw)) as [v' w'] eqn:Heq.
+  apply single_valued_projections in H1.
+  destruct H1; subst.
+  rewrite <- append_comm_cons.
+  rewrite (eta vw).
+  apply single_valued_uncons in H0.
+  destruct H0; subst.
+  f_equal...
+  apply IHv...
+Qed.
```
Comment (herbelin) [inline theories/Vectors/VectorSpec.v]: Yes, good and useful as far as I can tell (up to consequences of other remarks).

**Review by herbelin — CHANGES_REQUESTED** [review]

**Comment by herbelin** [comment]
And sorry for the very late answer. The definition and properties of "split at" look very good. See otherwise the comments I put on the other lemmas.

File: theories/Vectors/VectorDef.v [hunk 7]
```diff
@@ -189,6 +189,16 @@ Fixpoint append {A}{n}{p} (v:t A n) (w:t A p):t A (n+p) :=
...
+(** Split a vector into two parts *)
+Fixpoint splitAt {A} (l : nat) {r : nat} :
+  t A (l + r) -> t A l * t A r :=
+  match l with
+  | 0 => fun v => ([], v)
+  | S l' => fun v =>
+    let (v1, v2) := splitAt l' (tl v) in
+    (hd v::v1, v2)
+  end.
+
```
[the remark this answers is not in the document]
Comment (liyishuai) [reply theories/Vectors/VectorDef.v]: I choose `splitat` because it is a single concept, and prefer underscores between concepts only.

**Review by herbelin — APPROVED** [review]

**Comment by herbelin** [comment]
@ppedrot: if you want to say something more, please proceed. Otherwise, this is ok to me (and @Zimmi48) and I'll merge by the end of the week.

**Comment by herbelin** [comment]
Note: In the absence of information about 8.10, and since the PR is w/o change of existing code I selected 8.10 as milestone but 8.11 would be fine also.
